* Z:\mnt\design.r\spice\examples\ADM7170.asc
C2 0 N001 1n
V1 IN 0 3.5
Rload OUT 0 15
C1 OUT 0 4.7µ
XU1 IN N002 IN N001 OUT 0 ADM7170 Vref=1.2
R1 OUT N002 15K
R2 N002 0 10K
.tran 5m startup
.lib ADM7170.sub
.backanno
.end
